US07732461B2
3-Chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was synthesised from 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one and 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2002056882, Example 5(b)), according to the general method of Example 2(h), in 69% yield.

reactant | 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | NC1CCN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl | C16H19ClN4O
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxaldehyde | O=C1COC2=C(N1)C=C(C=C2)C=O | C9H7NO3
product | 3-Chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | 69% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NCC=3C=CC1=C(NC(CO1)=O)C3)=O | InChI=1S/C25H26ClN5O3.ClH/c26-18-11-28-19-2-4-23(33)31-13-16(24(18)25(19)31)12-30-7-5-17(6-8-30)27-10-15-1-3-21-20(9-15)29-22(32)14-34-21;/h1-4,9,11,16-17,27H,5-8,10,12-14H2,(H,29,32);1H
